US05631257
8-(Benzoxazol-2-yl)-8-aza-5-azoniaspiro[4,5]decane iodide
A 245 mg portion of potassium carbonate was added to 300 mg of 2-(1-piperazinyl)benzoxazole which had been dissolved in 5 ml of DMF, and the reaction was carried out for 30 minutes. Under cooling with ice, 0.23 ml of 1,4-diiodobutane was added to the resulting solution, and the reaction was carried out for 1 hour at the same temperature and then for 2 hours at room temperature. The reaction solution was concentrated under a reduced pressure, and the resulting residue was dissolved in 300 ml of dichloromethane and extracted three times with 100 ml of water. Thereafter, the aqueous layers were combined and lyophilized. By purifying the residue by Diaion HP-20 (Mitsubishi Chemicals), 175 mg of the title compound was obtained.

reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | 2-(1-piperazinyl)benzoxazole | 300 mg | N1(CCNCC1)C=1OC2=C(N1)C=CC=C2 | C11H13N3O
reactant | 1,4-diiodobutane | 0.23 ml | ICCCCI | C4H8I2
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 8-(Benzoxazol-2-yl)-8-aza-5-azoniaspiro[4,5]decane iodide | 175 mg | [I-].O1C(=NC2=C1C=CC=C2)N2CC[N+]1(CCCC1)CC2 | InChI=1S/C15H20N3O.HI/c1-2-6-14-13(5-1)16-15(19-14)17-7-11-18(12-8-17)9-3-4-10-18;/h1-2,5-6H,3-4,7-12H2;1H/q+1;/p-1
